US04429146
3-(2-Chloro-4-trifluoromethylphenoxy)benzoic acid (275.9 g, 0.935 mole), acetic anhydride (276 g, 2.7 mole), glacial acetic acid (276 g, 4.6 mole) and conc. H2SO4 (44 g) were charged into a three-neck 5 liter flask equipped with a mechanical stirrer, thermometer and an addition funnel. Nitric acid (90%, 91.7 g, 1.3 mole) was added at 15°-25° C. over 0.5 hr. The cooling bath was substituted with a water bath and the reaction was stirred for 1.5 hrs. at 30° C. The reaction was quenched with 1250 ml of water (at 30° C.), stirred for 0.25 hr. The resultant yellow precipitate was filtered and washed with 2 liters of water. Recrystallization from toluene (750 ml) afforded 271.6 g of 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid; m.p. 120°-121° C.

reactant | 3-(2-Chloro-4-trifluoromethylphenoxy)benzoic acid | 0.935 mole, 275.9 g | ClC1=C(OC=2C=C(C(=O)O)C=CC2)C=CC(=C1)C(F)(F)F | C14H8ClF3O3
reactant | acetic anhydride | 2.7 mole, 276 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 4.6 mole, 276 g | C(C)(=O)O | C2H4O2
reactant | H2SO4 | 44 g | OS(=O)(=O)O | H2O4S
reactant | Nitric acid | 1.3 mole, 91.7 g | [N+](=O)(O)[O-] | HNO3
product | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid | 271.6 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
